US06984646B2
2.50 g (15.0 mmol) of 3,5-Dimethyl-2-nitroaniline are dissolved in 50 ml ethanol. To this solution 250 mg (0.23 mmol) of palladium (10% on carbon) are added under argon. The mixture is treated for 24 h with hydrogen at ambient pressure and ambient temperature. The mixture is filtrated over celite and washed with ethanol. The solvent is evaporated under vacuum to yield 2.04 g (97.1% of th.) of 2-Amino-3,5-dimethylphenylamine.

reactant | 3,5-Dimethyl-2-nitroaniline | 15.0 mmol, 2.50 g | CC=1C(=C(N)C=C(C1)C)[N+](=O)[O-] | C8H10N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium | 0.23 mmol, 250 mg | [Pd] | Pd
product | 2-Amino-3,5-dimethylphenylamine | 2.04 g, 97.1% | NC1=C(C=C(C=C1C)C)N | C8H12N2
